US04055597
A mixture of (4S)-4-(2-tetrahydropyranyloxy)-1-nonanol (29.2 g., 0.12 mole) and pyridine (20 ml.) is cooled to 5° by means of an ice bath. Methanesulfonyl chloride (17.2 g., 0.15 mole) is added dropwise during 20 minutes and the mixture is stirred 4 hours with ice bath cooling. The mixture is then taken up in ether, washed with 4 portions of water and with brine and dried over sodium sulfate. The ether is distilled on the rotary evaporator to leave as a residual oil crude (4S)-1-methylsulfonyloxy-4-(2-tetrahydropyranyloxy)-nonane.

reactant | (4S)-4-(2-tetrahydropyranyloxy)-1-nonanol | 0.12 mole, 29.2 g | O1C(CCCC1)O[C@H](CCCO)CCCCC | C14H28O3
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | Methanesulfonyl chloride | 0.15 mole, 17.2 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | ether | CCOCC | C4H10O
product | (4S)-1-methylsulfonyloxy-4-(2-tetrahydropyranyloxy)-nonane | CS(=O)(=O)OCCC[C@H](CCCCC)OC1OCCCC1 | C15H30O5S
